US09340538B2
(3S)-4-((6-(2-chloro-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2,2-dimethylmorpholine-3-carboxylic acid
Methyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (6.8 g, 15.3 mmol) was reacted with (S)-2,2-dimethylmorpholine-3-carboxylic acid (2.44 g, 15.3 mmol) according to the procedure as described in Example 46, Step F to give the title compound as a yellow solid (4.4 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 15.3 mmol, 6.8 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Cl)C(=O)OC | C16H12BrClFN3O2S
reactant | (S)-2,2-dimethylmorpholine-3-carboxylic acid | 15.3 mmol, 2.44 g | CC1([C@H](NCCO1)C(=O)O)C | C7H13NO3
product | (3S)-4-((6-(2-chloro-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2,2-dimethylmorpholine-3-carboxylic acid | 4.4 g, 55% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](C(OCC1)(C)C)C(=O)O)C(=O)OC | C23H24ClFN4O5S
